US07816526B2
Synthesis of 2-chloro-6-n-propylimidazo[1,2-b]pyridazin-3-ylsulfonyl chloride
2-Chloro-6-n-propylimidazo[1,2-b]pyridazine (5.00 g, 25.6 mmol) was dissolved in 1,2-dichloroethane (30.0 ml), and chlorosulfonic acid (3.40 ml, 51.1 mmol) was added to the solution at room temperature. The mixture was heated for 8.5 hours under reflux, and then cooled to room temperature, and triethylamine (7.84 ml, 56.2 mmol) and phosphorus oxychloride (5.24 ml, 56.2 mmol) were added thereto and heated for 4 hours under reflux. Cold water was added to the reaction mixture which was then extracted with chloroform. The extracts were combined, dried over anhydrous magnesium sulfate, filtered and concentrated. The concentrated residues were purified by silica gel column chromatography (ethyl acetate:hexane=3:7) to give the title compound as pale yellow crystals. The yield was 7.40 g (98.4%).

reactant | 2-Chloro-6-n-propylimidazo[1,2-b]pyridazine | 25.6 mmol, 5.00 g | ClC=1N=C2N(N=C(C=C2)CCC)C1 | C9H10ClN3
reactant | chlorosulfonic acid | 51.1 mmol, 3.40 ml | ClS(=O)(=O)O | ClHO3S
reactant | triethylamine | 56.2 mmol, 7.84 ml | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 56.2 mmol, 5.24 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | 1,2-dichloroethane | 30.0 ml | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | 2-chloro-6-n-propylimidazo[1,2-b]pyridazin-3-ylsulfonyl chloride | ClC=1N=C2N(N=C(C=C2)CCC)C1S(=O)(=O)Cl | C9H9Cl2N3O2S
